US08022062B2
N-(tert-Butoxycarbonyl)-2-chloro-4-(1-hydroxy-3,3-dimethyl-butyl)-benzylamine:
Add butyllithium (11.7 mL, 18.65 mmol) to a solution of 4-bromo-N-(tert-butoxycarbonyl)-2-chloro-benzylamine (2.601 g, 8.11 mmol) in diethyl ether (86 mL) at −78° C. under nitrogen and stir for 2 h. Add 3,3-dimethylbutyraldehyde (1.868 g, 2.3 mL, 18.65 mmol), stir for 30 min at −78° C. and then warm to room temperature. Add water and extract twice the aqueous phase with EtOAc. Dry the combined organic extracts over Na2SO4, filter and concentrate in vacuo. Purify by chromatography on silica gel eluting hexane/EtOAc (85:15) to obtain the desired intermediate as a yellow oil (1.825 mg, 66%).

reactant | butyllithium | 18.65 mmol, 11.7 mL | C(CCC)[Li]
reactant | 4-bromo-N-(tert-butoxycarbonyl)-2-chloro-benzylamine | 8.11 mmol, 2.601 g | BrC1=CC(=C(CNC(=O)OC(C)(C)C)C=C1)Cl | C12H15BrClNO2
reactant | 3,3-dimethylbutyraldehyde | 18.65 mmol, 2.3 mL, 1.868 g | CC(CC=O)(C)C | C6H12O
solvent | diethyl ether | 86 mL | C(C)OCC | C4H10O
product | N-(tert-Butoxycarbonyl)-2-chloro-4-(1-hydroxy-3,3-dimethyl-butyl)-benzylamine | 1.825 mg, 66% | C(C)(C)(C)OC(=O)NCC1=C(C=C(C=C1)C(CC(C)(C)C)O)Cl | C18H28ClNO3
